US07906654B2
2-(7-cyano-1H-benzimidazol-1-yl)-N-[4-(1-cyano-1-methylethyl)-2-methylbenzyl]acetamide
(7-cyano-1H-benzimidazol-1-yl)acetic acid (86 mg, 0.43 mmol) prepared according to scheme 3 is dissolved in DCM (3 mL). DIPEA (0.1 mL) is added, followed by pivaloyl chloride (53 μL, 0.43 mmol). After 1 hour, 2-[4-(aminomethyl)-3-methylphenyl]-2-methylpropanenitrile (80 mg, 0.43 mmol) prepared according to scheme 19 is added. The mixture is stirred overnight at room temperature, concentrated under vacuo and purified on HPLCMS: Waters prep LCMS, 27 ml/min, X-Bridge Prep C18 OBD, 30×50 mm, 5 μm particle size, Mobile phase: A=water (10 mM NH4CO3) B=MeCN, Gradient used 30% to 50% B in A, in 10 min. The fractions are combined and freeze dried to give the desired product (47 mg, 0.13 mmol, 30%). MS (ESI) (M+1) 372.3. 1H NMR (400 MHz, DMSO-D6) δ ppm 1.65 (s, 6H) 2.31 (s, 3H) 4.29 (d, J=5.08 Hz, 2H) 5.26 (s, 2H) 7.25-7.29 (m, 1H) 7.30-7.40 (m, 3H) 7.73 (dd, J=7.62, 0.98 Hz, 1H) 8.03 (dd, J=8.20, 0.78 Hz, 1H) 8.38 (s, 1H) 8.74 (t, J=5.27 Hz, 1H).

reactant | (7-cyano-1H-benzimidazol-1-yl)acetic acid | 0.43 mmol, 86 mg | C(#N)C1=CC=CC2=C1N(C=N2)CC(=O)O | C10H7N3O2
reactant | DIPEA | 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | pivaloyl chloride | 0.43 mmol, 53 μL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 2-[4-(aminomethyl)-3-methylphenyl]-2-methylpropanenitrile | 0.43 mmol, 80 mg | NCC1=C(C=C(C=C1)C(C#N)(C)C)C | C12H16N2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-(7-cyano-1H-benzimidazol-1-yl)-N-[4-(1-cyano-1-methylethyl)-2-methylbenzyl]acetamide | 0.13 mmol, 47 mg, 30% | C(#N)C1=CC=CC2=C1N(C=N2)CC(=O)NCC2=C(C=C(C=C2)C(C)(C)C#N)C | C22H21N5O
